US06420557B1
(e) Ethyl 2-ethoxy-5-(4-ethyl-1-piperazinylsulfonyl)nicotinoate
A solution of Ethyl 2-chloro-5-(4-ethyl-1-piperazinylsulfonyl)nicotinoate (36.1 g, 0.1 mol) in ethanol (180 mL) was cooled to 10° C. with stirring. Sodium ethoxide (10.2 g, 0.15 mol) was added portionwise keeping the temperature below 20° C. The reaction mixture was then stirred at ambient temperature for 18 hours. The precipitate was filtered off and water (180 mL) added to the filtrate. The filtrate was then heated to 40° C. for 1 hour. Ethanol (180 mL) was then distilled off at ambient pressure and the remaining aqueous solution allowed to cool to ambient temperature. The precipitated product was then filtered off, washed with water and dried under vacuo at 50° C. to afford the title compound (12.6 g, 34%) as a light brown solid. M.p. 66-68° C. δ (CDCl3): 1.04 (3H, t), 1.39 (3H, t), 1.45 (3H, t), 2.41 (2H, q), 2.52 (4H, m), 3.08 (4H, m), 4.38 (2H, q), 2.57 (2H, q), 8.38 (1H, d), 8.61 (1H, d). m/z (Found: 372 [M+H]+, 100%. C16H26N3O5S requires 372.46).

reactant | Ethyl 2-chloro-5-(4-ethyl-1-piperazinylsulfonyl)nicotinoate | 0.1 mol, 36.1 g | ClC1=C(C(=O)OCC)C=C(C=N1)S(=O)(=O)N1CCN(CC1)CC | C14H20ClN3O4S
reactant | Sodium ethoxide | 0.15 mol, 10.2 g | [O-]CC.[Na+]
solvent | ethanol | 180 mL | C(C)O | C2H6O
product | Ethyl 2-ethoxy-5-(4-ethyl-1-piperazinylsulfonyl)nicotinoate | 12.6 g, 34% | C(C)OC1=C(C(=O)OCC)C=C(C=N1)S(=O)(=O)N1CCN(CC1)CC | C16H25N3O5S
